US08106190B2
2-{[(1R,2S)-2-Pyrrolidin-1-ylcyclohexyl]amino}-4-(trifluoromethyl)benzoic acid (150 mg), quinolin-7-amine (67 mg), hydrochloride of 1-ethyl-3-[3-(N,N-dimethylamino)propyl]carbodiimide (121 mg) and 1-hydroxybenzotriazole (57 mg) were stirred at 110° C. for 15 minutes in N-methylpyrrolidone under microwave irradiation. A potassium carbonate aqueous solution was added to the reaction liquid, followed by extraction with ethyl acetate. The organic layer was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (basic silica gel, hexane:ethyl acetate, 7:3 to 1:1). By treating the resulting free base with 4 M hydrogen chloride/ethyl acetate, 2-{[(1R,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}-N-quinolin-7-yl-4-(trifluoromethyl)benzamide dihydrochloride (66 mg) was obtained as an amorphous.

reactant | 2-{[(1R,2S)-2-Pyrrolidin-1-ylcyclohexyl]amino}-4-(trifluoromethyl)benzoic acid | 150 mg | N1(CCCC1)[C@@H]1[C@@H](CCCC1)NC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C18H23F3N2O2
reactant | quinolin-7-amine | 67 mg | N1=CC=CC2=CC=C(C=C12)N | C9H8N2
reactant | hydrochloride | Cl | ClH
reactant | 1-ethyl-3-[3-(N,N-dimethylamino)propyl]carbodiimide | 121 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 57 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 2-{[(1R,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}-N-quinolin-7-yl-4-(trifluoromethyl)benzamide dihydrochloride | 66 mg | Cl.Cl.N1(CCCC1)[C@@H]1[C@@H](CCCC1)NC1=C(C(=O)NC2=CC=C3C=CC=NC3=C2)C=CC(=C1)C(F)(F)F | InChI=1S/C27H29F3N4O.2ClH/c28-27(29,30)19-10-12-21(26(35)32-20-11-9-18-6-5-13-31-23(18)17-20)24(16-19)33-22-7-1-2-8-25(22)34-14-3-4-15-34;;/h5-6,9-13,16-17,22,25,33H,1-4,7-8,14-15H2,(H,32,35);2*1H/t22-,25+;;/m1../s1
